US07897767B2
Hydrazine hydrate (0.753 mL, 15.5 mmol) was added to a stirred suspension of tert-butyl 2-(4-amino-7-(benzyloxy)-2-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}-1H-imidazo[4,5-c]quinolin-1-yl)ethylcarbamate (3.15 g, 5.18 mmol) in ethanol (50 mL). The suspension was stirred at room temperature for 3 hours, then was filtered. The filtrate was concentrated under reduced pressure to yield 2.43 g of crude tert-butyl 2-[4-amino-2-[(aminooxy)methyl]-7-(benzyloxy)-1H-imidazo[4,5-c]quinolin-1-yl]ethylcarbamate that was used without purification in the next step.

reactant | Hydrazine hydrate | 15.5 mmol, 0.753 mL | O.NN
reactant | tert-butyl 2-(4-amino-7-(benzyloxy)-2-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}-1H-imidazo[4,5-c]quinolin-1-yl)ethylcarbamate | 5.18 mmol, 3.15 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCNC(OC(C)(C)C)=O)CON2C(C1=CC=CC=C1C2=O)=O)OCC2=CC=CC=C2 | C33H32N6O6
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | tert-butyl 2-[4-amino-2-[(aminooxy)methyl]-7-(benzyloxy)-1H-imidazo[4,5-c]quinolin-1-yl]ethylcarbamate | 2.43 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCNC(OC(C)(C)C)=O)CON)OCC2=CC=CC=C2 | C25H30N6O4
